US04490376
5-chloromethyl-1-phenyl-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one (5.2 g), prepared according to Example 1, was dissolved in dimethylformamide (30 ml) and reacted with anhydrous potassium acetate (4 g) under stirring at room temperature for 20 hours. After dilution with ice water the precipitate was filtered and washed with water to give 5-acetoxymethyl-1-phenyl-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one, m.p. 172°-175° C., (4.9 g) which was hydrolized by treatment with 8% HCl (50 ml) under stirring at 90° C. for 30 minutes. The reaction mixture was neutralized with 35% NaOH and the precipitate was filtered and washed with water to give 5-hydroxymethyl-1-phenyl-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one, m.p. 241°-242° C., (4.1 g), which was reacted with dicyclohexylcarbodiimide (8 g) in benzene (60 ml) and dimethylsulphoxide (15 ml) in the presence of trifluoroacetic acid (0.6 ml) and pyridine (1 ml) under stirring at room temperature for 20 hours. After treatment with oxalic acid bihydrate (1.8 g) at room temperature, the precipitate of dicyclohexylurea was filtered off and the organic solution was evaporated in vacuo to dryness: the residue was purified over a SiO2 column using chloroform: ethyl acetate=95:5 as eluent. The 7-formyl-1-phenyl-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one so obtained (2.5 g) was reacted with the ylide obtained by treatment of (3-pyridyl)-methyl-triphenylphosphonium chloride (4.2 g) with potassium tert-butoxide (1.25 g) in dimethylsulphoxide (20 ml) at room temperature for 30 minutes. After dilution with ice water the precipitate was filtered and washed with water: crystallization from isopropyl alcohol gave 2.05 g of 1-phenyl-5-trans-[2-(3-pyridyl)ethenyl]-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one, m.p. 221°-224° C.

reactant | 5-chloromethyl-1-phenyl-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one | 5.2 g | ClCC=1N=C2N(C(C1)=O)N(C=C2)C2=CC=CC=C2 | C13H10ClN3O
reactant | potassium acetate | 4 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-acetoxymethyl-1-phenyl-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one | C(C)(=O)OCC=1N=C2N(C(C1)=O)N(C=C2)C2=CC=CC=C2 | C15H13N3O3
